US07585886B2
1 M sodium hydroxide aqueous solution was added at room temperature to a methanol solution of ethyl 2-oxo-4-phenylpyrrolidine-3-carboxylate (Wako Pure Chemical Industries (Wako), Japan) and stirred for 13Hours. The reaction solution was acidified by adding 1 M hydrochloric acid, and the thus precipitated solid was collected by filtration and dried to obtain 2-oxo-4-phenylpyrrolidine-3-carboxylic acid. FP: 206.

reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | ethyl 2-oxo-4-phenylpyrrolidine-3-carboxylate | O=C1NCC(C1C(=O)OCC)C1=CC=CC=C1 | C13H15NO3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-oxo-4-phenylpyrrolidine-3-carboxylic acid | O=C1NCC(C1C(=O)O)C1=CC=CC=C1 | C11H11NO3
